US05189054
Suspend the 3-amino-2-carbethoxy-6-trifluoromethylindole (290 mg, 1.06 mmol) in tetrahydrofuran (30 mL) and add triethylamine (0.150 mL, 1.17 mmol). Add benzoyl chloride (0.136 mL, 1.17 mmol) and stir for 30 minutes at room temperature. Dilute the reaction with ethyl acetate rinse with 1M HCl, water, dry over magnesium sulfate, filter and concentrate in vacuo. Recrystallize from hot ethyl acetate/hexane to yield 3-[(phenacyl)amino]-2-carbethoxy-6-trifluoromethylindole (230 mg, 56%); mp 237°-239° C.

reactant | 3-amino-2-carbethoxy-6-trifluoromethylindole | 1.06 mmol, 290 mg | NC1=C(NC2=CC(=CC=C12)C(F)(F)F)C(=O)OCC | C12H11F3N2O2
reactant | triethylamine | 1.17 mmol, 0.150 mL | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 1.17 mmol, 0.136 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 3-[(phenacyl)amino]-2-carbethoxy-6-trifluoromethylindole | 230 mg, 56% | C(C(=O)C1=CC=CC=C1)NC1=C(NC2=CC(=CC=C12)C(F)(F)F)C(=O)OCC | C20H17F3N2O3
